US05238948
25. Di(5-methyl-2-nitro-benzyl) pyridine-2,5-dicarboxylate
Analogously to Example 1, 5 g of pyridine-2,5-dicarboxylic acid are converted into the acid chloride with 40 ml of thionyl chloride in 30 ml of methylene chloride and this is reacted with 10 g of 5-methyl-2-nitro-benzyl alcohol in 50 ml of methylene chloride. The reaction mixture is stirred overnight at room temperature, sodium bicarbonate solution is then added, the mixture is extracted with methylene chloride and the organic phase is dried. After the solvent has been stripped off, the residue is stirred with ethyl acetate, filtered off with suction and recrystallized twice from methylene chloride.

reactant | pyridine-2,5-dicarboxylic acid | 5 g | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-methyl-2-nitro-benzyl alcohol | 10 g | CC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C8H9NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Di(5-methyl-2-nitro-benzyl) pyridine-2,5-dicarboxylate | N1=C(C=CC(=C1)C(=O)OCC1=C(C=CC(=C1)C)[N+](=O)[O-])C(=O)OCC1=C(C=CC(=C1)C)[N+](=O)[O-] | C23H19N3O8
